US08808964B2
A mixture of 7 g of o-phenylenediamine and 12.5 g of cyclohexanecarboxylic acid was melted by heating at 130-150° C. and stirred for 8 hours. The solid after reaction was transferred into 130 g of 1 wt % sodium hydroxide aqueous solution to form a suspension, which was filtered and washed with hot water. The crude crystals thus obtained were recrystallized from methanol/water, filtered, and dried, obtaining 8.9 g of 2-cyclohexylimidazole (yield 69%).

reactant | o-phenylenediamine | 7 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | cyclohexanecarboxylic acid | 12.5 g | C1(CCCCC1)C(=O)O | C7H12O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-cyclohexylimidazole | 8.9 g, yield 69% | C1(CCCCC1)C=1NC=CN1 | C9H14N2
